US08912186B2
By a procedure similar to that of example 1.59.1, starting from 2-naphthaldehyde and acetophenone, 3-(2-naphthalenyl)-1-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | 2-naphthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(2-naphthalenyl)-1-phenylprop-2-en-1-one | C1=C(C=CC2=CC=CC=C12)C=CC(=O)C1=CC=CC=C1 | C19H14O
